US07576212B2
2-Amino-4-phenyl-thiophene-3-carboxylic acid ethyl ester (5 g, 20.2 mmol) was suspended in 20% potassium hydroxide solution (100 ml) and heated to reflux. Ethanol (100 ml) was added to aid dissolution. The reaction was stirred overnight and then cooled to room temperature and diluted with water (250 ml). The precipitated solid was collected by filtration and dissolved in DCM/ethyl acetate before drying over magnesium sulfate. The solvent was removed in vacuo to give 4-phenyl-thiophen-2-ylamine. Yield 1.05 g (30%).

reactant | 2-Amino-4-phenyl-thiophene-3-carboxylic acid ethyl ester | 20.2 mmol, 5 g | C(C)OC(=O)C1=C(SC=C1C1=CC=CC=C1)N | C13H13NO2S
reactant | Ethanol | 100 ml | C(C)O | C2H6O
solvent | potassium hydroxide | 100 ml | [OH-].[K+]
solvent | water | 250 ml | O | H2O
product | 4-phenyl-thiophen-2-ylamine | C1(=CC=CC=C1)C=1C=C(SC1)N | C10H9NS
